US05286721
To a solution of allyl (5R,6S)-3-[2-allyloxycarbonylamino-1-(N-allyloxycarbonylaminomethyl)ethyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (988 mg) in tetrahydrofuran (12.4 ml) and ethanol (4.1 ml) were added successively triphenylphosphine (217 mg), 5,5-dimethyl-1,3-cyclohexanedione (1.16 g), acetic acid (0.12 ml) and tetrakis(triphenylphosphine)palladium (191 mg) at room temperature. The mixture was warmed to 30° C. and stirred for 5 minutes. Then the solution was cooled down to room temperature and stirred for 30 minutes to precipitate the solid. Ethyl acetate (33 ml) was added and the mixture was extracted twice with cold buffer (pH 6.86; 51 ml×1, 17 ml×1). The aqueous extracts were combined and the pH was adjusted to 7.0 with 10% aqueous potassium carbonate solution. The solution was cooled in an ice-bath and basified to pH 8.5. Ethyl 3-pentenimidate hydrochloride (508 mg) was added portionwise while adjusting pH to 8.5. After the addition, the solution was stirred at pH 8.5 for 10 minutes and at pH 7.0 for 50 minutes. The solution was washed five times with ethyl acetate-tetrahydrofuran (7:3, V/V, 55 ml) followed by adjusting to pH 7.0. The solution was concentrated to about 15 ml and chromatographed on Diaion HP-20 (eluent:acetonitrile-water=3:97-5:95, V/V) followed by silica gel (eluent:acetonitrile-water=100:0-70:30, V/V) to give (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[2-(2-butenyl)-1,4,5,6-tetrahydropyrimidin-5-yl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (126 mg).

reactant | allyl (5R,6S)-3-[2-allyloxycarbonylamino-1-(N-allyloxycarbonylaminomethyl)ethyl]-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 988 mg | C(C=C)OC(=O)NCC(CNC(=O)OCC=C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCC=C | C23H31N3O8
reactant | triphenylphosphine | 217 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5,5-dimethyl-1,3-cyclohexanedione | 1.16 g | CC1(CC(CC(C1)=O)=O)C | C8H12O2
reactant | acetic acid | 0.12 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 12.4 ml | O1CCCC1 | C4H8O
solvent | ethanol | 4.1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium | 191 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (5R,6S)-6-[(1R)-1-hydroxyethyl]-3-[2-(2-butenyl)-1,4,5,6-tetrahydropyrimidin-5-yl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 126 mg | O[C@H](C)[C@@H]1[C@H]2CC(=C(N2C1=O)C(=O)O)C1CN=C(NC1)CC=CC | C17H23N3O4
